US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2-(2-ethoxy-ethoxy)-ethanol to give {1-[2-(2-ethoxy-ethoxy)-ethoxy]-isoquinolin-3-yl}-(1H-pyrazol-3-yl)-amine. LC-MS m/e 343(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 2-(2-ethoxy-ethoxy)-ethanol | C(C)OCCOCCO | C6H14O3
product | {1-[2-(2-ethoxy-ethoxy)-ethoxy]-isoquinolin-3-yl}-(1H-pyrazol-3-yl)-amine | C(C)OCCOCCOC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C18H22N4O3
